US07652051B2
Synthesis of 4-{4-[5-(4-trifluoromethoxy-phenyl)-4H-[1,2,4]triazol-3-ylamino]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt
4-[5-(4-trifluoromethoxy-phenyl)-4H[1,2,4]triazol-3-ylamino]-phenol (134.5 mg, 0.4 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (120.0 mg, 0.6 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 4-chloro-2-pyridine-carboxamide (68.2 mg, 0.4 mmol) was added, followed by anhydrous K2CO3 (62.0 mg, 0.44 mmol). Then the vial was capped and microwaved at 150° C. for 30 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (31.7 mg of white solid).

reactant | 4-[5-(4-trifluoromethoxy-phenyl)-4H[1,2,4]triazol-3-ylamino]-phenol | 0.4 mmol, 134.5 mg | FC(OC1=CC=C(C=C1)C=1NC(=NN1)NC1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
reactant | potassium bis(trimethylsilyl)amide | 0.6 mmol, 120.0 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro-2-pyridine-carboxamide | 0.4 mmol, 68.2 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | K2CO3 | 0.44 mmol, 62.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 4-{4-[5-(4-trifluoromethoxy-phenyl)-4H-[1,2,4]triazol-3-ylamino]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt | 31.7 mg | FC(C(=O)O)(F)F.CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC1=NN=C(N1)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C22H17F3N6O3.C2HF3O2/c1-26-20(32)18-12-17(10-11-27-18)33-15-8-4-14(5-9-15)28-21-29-19(30-31-21)13-2-6-16(7-3-13)34-22(23,24)25;3-2(4,5)1(6)7/h2-12H,1H3,(H,26,32)(H2,28,29,30,31);(H,6,7)
